US07456164B2
4-[3-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile
4-(3-Hydroxy-phenyl)-tetrahydro-2H-pyran-4-carbonitrile (1.03 g, 5.10 mmol), 1-(3-chloro-propyl)-pyrrolidine (600 mg, 4.08 mmol), DMF (6.8 ml) and K2CO3 (2.82 g, 20.4 mmol) were reacted together according to general procedure E. The organic phase was washed with 2M NaOH (3×50 ml), brine (3×50 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. The crude mixture was slurried in TBME:heptane (1:20, 10 ml). The solid was filtered, washed with heptane (10 ml) and dried on the filter for 2 hours to give the title compound (0.4 g, 31%). 1H NMR (400 MHz, CDCl3) δ 7.32 (t, 1H), 7.07-6.99 (m, 2H), 6.87 (dd, 1H), 4.11-4.04 (m, 2H), 4.05 (t, 2H), 3.90 (td, 2H), 2.63 (t, 2H), 2.57-2.49 (m, 4H), 2.18-1.97 (m, 6H), 1.84-1.75 (m, 4H).

reactant | 4-(3-Hydroxy-phenyl)-tetrahydro-2H-pyran-4-carbonitrile | 5.10 mmol, 1.03 g | OC=1C=C(C=CC1)C1(CCOCC1)C#N | C12H13NO2
reactant | 1-(3-chloro-propyl)-pyrrolidine | 4.08 mmol, 600 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | K2CO3 | 20.4 mmol, 2.82 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6.8 ml | CN(C)C=O | C3H7NO
product | 4-[3-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile | 0.4 g, 31% | N1(CCCC1)CCCOC=1C=C(C=CC1)C1(CCOCC1)C#N | C19H26N2O2
